US04725283
Preparation of 2,5-difluoro-4-nitroaniline
10 ml of water are added with due care to 75 ml of concentrated sulphuric acid; the temperature rises to 70° C. 0.105 mole (33 g) of 2,5-difluoro-4-nitro-N-benzenesulphonylaniline prepared in the previous stage is then added. The temperature is maintained at 70° C. for 2 hours. The reaction mixture is poured onto 1 kg of ice and water and the expected product precipitates. After filtration and washing to neutrality the product is recrystallized from 100 ml of 96° ethanol. It melts at 153° C.

reactant | sulphuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-difluoro-4-nitro-N-benzenesulphonylaniline | 0.105 mole, 33 g | FC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C(=C1)[N+](=O)[O-])F | C12H8F2N2O4S
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | 2,5-difluoro-4-nitroaniline | FC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4F2N2O2
